US08541576B2
Step c. Preparation of 2-bromo-4-(4-methylpiperazin-1-yl)phenol
2-bromo-4-(4-methylpiperazin-1-yl)phenyl acetate 280 mg (1.03 mmol) were dissolved in methanol and reacted with 2 ml of 1 N NaOH. After two hours the reaction was acidified with glacial acetic acid, evaporated and purified on silica with DCM/MeOH 9/1 0.4% 7M NH3 in MeOH. LC/MS (m/z): 273.2 [M+H]+, HPLC (254 nm) method 3 Rt 2.96 min.

reactant | 2-bromo-4-(4-methylpiperazin-1-yl)phenyl acetate | 1.03 mmol, 280 mg | C(C)(=O)OC1=C(C=C(C=C1)N1CCN(CC1)C)Br | C13H17BrN2O2
reactant | NaOH | 1 N, 2 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-bromo-4-(4-methylpiperazin-1-yl)phenol | BrC1=C(C=CC(=C1)N1CCN(CC1)C)O | C11H15BrN2O
